US08420858B2
Synthesis of 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-diacetoxypropyl)amide chloride (Formula 19)
5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-dihydroxypropyl)amide chloride (9.97 kg, 13.8 mol) was dispersed in acetic acid, and then anhydrous acetic acid (7.45 kg) was added thereto and the mixture was cooled to 5° C. Sulfuric acid (135 g) was slowly added thereto and the mixture was stirred for 1 hour. To the obtained clear solution, sodium acetate trihydrate (376 g) was added and dissolved at 0 to 5° C. And then water (96.6 kg) was added for 3 hours with maintaining 0 to 10° C. to produce solid. The produced solid was filtered and the title compound was obtained as a white solid (10.04 kg, yield 90.2%).

reactant | 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-dihydroxypropyl)amide chloride | 13.8 mol, 9.97 kg | [Cl-].OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)CO
reactant | Sulfuric acid | 135 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate trihydrate | 376 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | 96.6 kg | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 7.45 kg | C(C)(=O)O | C2H4O2
product | 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-diacetoxypropyl)amide chloride | [Cl-].C(C)(=O)OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)COC(C)=O | InChI=1S/C18H19I3N2O9.ClH/c1-7(24)31-5-9(32-8(2)25)4-22-17(27)11-13(19)12(18(28)29)15(21)16(14(11)20)23-10(26)6-30-3;/h9H,4-6H2,1-3H3,(H,22,27)(H,23,26)(H,28,29);1H/p-1
